US06506754B1
Preparation of 3-(acetoxymethyl)-6-methyl-N-(acetyl)aniline (3)
To a solution of an approximately 1:1 mixture of 3-(hydroxymethyl)-6-methylaniline, (8.05 g, 58.8 mmol) (2) and 2,5-dimethylaniline in chloroform (290 mL), was added acetic anhydride (20 mL, 206 mmol) and potassium acetate (20 g, 202 mmol). The resulting mixture was heated at reflux for 2 hours. The mixture was then concentrated and purified by a flash column chromatography (1:1 of hexane-ethyl acetate) to give the title compound (12.02 g, 92%). TLC Rf: 0.52 (ethyl acetate); MS (electrospray) 222 (M+1); 1H N MR (CDCl3) δ 2.09 (s, 3H), 2.21 (s, 3H), 2.25 (s, 3H), 5.06 (s, 2H), 7.00 (br s, 1H, NH), 7.08 (d, 1H, J=7.6 Hz), 7.18 (d, 1H, J=7.6 Hz), 7.81 (s, 1H).

reactant | 3-(hydroxymethyl)-6-methylaniline | 58.8 mmol, 8.05 g | OCC=1C=C(N)C(=CC1)C | C8H11NO
reactant | 2,5-dimethylaniline | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | acetic anhydride | 206 mmol, 20 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | 202 mmol, 20 g | C(C)(=O)[O-].[K+]
solvent | chloroform | 290 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(acetoxymethyl)-6-methyl-N-(acetyl)aniline | 12.02 g, 92% | C(C)(=O)OCC=1C=C(NC(C)=O)C(=CC1)C | C12H15NO3
